reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([N:4]=[C:2]=[O:3])([H:5])([H:6])[H:7].[H:8][H:9]>>[C:1]([C:2](=[O:3])[N:4]([H:8])[H:9])([H:5])([H:6])[H:7],76.38337208945622
[C:1]([C:3](=[C:2])[C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7]>>[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7],10.510186105069707
[C:1]([C:2]([C+:3]=[C:5]([O-:6])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],6.667197689716588
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:5](\[C:6]([H:16])([H:17])[H:18])[O:7][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:14])[H:15],69.9533199373453
[C:1]([O:2]/[C:3](=[C:4](/[O:5][H:11])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],36.62996468292751
[C:1]([C-:2]([O+:3]=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:10])([H:7])([H:8])[H:9].[H:11][H:12]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],3.5467951783431886
[C:1]([N:2]1[C@:3]2([H:11])[C:4]([H:12])([H:13])[C@@:5]1([H:14])[C:6]([H:15])=[C:7]2[H:16])([H:8])([H:9])[H:10]>>[C:1]([N+:2]12[C@@:3]([H:11])([C-:4]1[H:12])[C:7]([H:16])=[C:6]([H:15])[C:5]2([H:13])[H:14])([H:8])([H:9])[H:10],77.88339678123091
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[N:3](\[C:4]([H:12])([H:13])[H:14])=[C:5](/[O:6][H:8])[H:15]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],29.589307760961194
[C:1]([C@:2]1([H:11])[C@@:4]([C:3]([H:12])([H:13])[H:14])([C:6]#[C:7][H:15])[O:5]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],68.55604648686926
[C-:1]([O+:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])[H:8].[H:9][H:10]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],6.714073954612502
[C:1]([C@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C@@:5]2([H:14])[C@:6]1([H:15])[C:7]2([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],87.9561110387906
[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9]>>[C:1]([O:6][H:16])([H:7])([H:8])[H:9].[C:2]1([H:10])=[C:5]([H:15])[C:3]1([C:4]([H:12])([H:13])[H:14])[H:11],119.67186553816201
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6][O:7][H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],29.83731913960179
[O:1]=[C:2]([O:7][C:6](=[N+:5]1[C-:3]([H:9])[C:4]1([H:10])[H:11])[H:12])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],15.994720276560685
[C:1]([O+:2]=[C-:3][H:12])([H:8])([H:9])[H:10].[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])([C:7]([H:19])([H:20])[H:21])[H:11]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],17.233222749646302
[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:4](=[O:5])[H:11])[H:9])([H:6])[H:7].[O:3]([H:8])[H:10],69.04134096330401
[C:1](/[C:2](=[C:3](\[O:4][N+:6]#[C-:5])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],37.4006040770316
[C:1](=[C:2]([O:3][H:12])[H:11])([H:8])[H:10].[C:4](=[C:5]([O:6][H:9])[N:7]([H:15])[H:16])([H:13])[H:14]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],25.31833294899051
[C:1]([C:2]([H:10])([H:11])[H:15])([H:7])([H:8])[H:9].[C:3](=[C:4]([C:5](=[O:6])[H:16])[H:14])([H:12])[H:13]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],72.7600623684052
[N:1]([C@@:2]12[O:3][N:6]([H:11])[C@:5]1([H:10])[N:4]2[H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8],22.88745898172199
[C:1]([C:2]([O+:4]=[C-:3][N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],52.59348179905849
[N:1](=[C:2](\[N:3]=[N:4]/[H:9])[C:7](=[C:6]=[O:5])[H:10])\[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],18.9215401928977
[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([O:3][H:12])[C:4]([H:10])([H:11])[C:5]1=[C:6])([H:7])([H:8])[H:9],81.35985471298609
